US06476077B1
(b) Methyl 3-methoxy-4-iodo-2-naphthoate
A solution of 3-hydroxy-4-iodo-2-naphthoic acid (8.0 g), dimethyl sulfate (8.03 g), powdered potassium carbonate (8.80 g), and dry acetone (150 mL) was heated under reflux for 18 h. The solution was cooled to room temperature, triethylamine (15 mL) was added, and stirring continued for 30 min. The solution was filtered through a pad of Celite and washed with dry acetone (50 mL). The filtrate was concentrated to a yellow oil, diluted with EtOAc, and washed successively with 1N HCl (100 mL), saturated aqueous sodium bicarbonate (100 mL), and brine (100 mL). The organic phase was dried (sodium sulfate), filtered, concentrated, and purified by chromatography (0-10% EtOAc in hexanes) to afford the product as a yellow oil (5.53 g). 1H NMR (DMSO-d6) δ8.47 (s,1 H), 8.09 (m,2 H), 7.74 (m, 1 H), 7.61 (m, 1 H), 3.94 (s,3 H), 3.87 (s,3 H).

reactant | 3-hydroxy-4-iodo-2-naphthoic acid | 8.0 g | OC=1C(=CC2=CC=CC=C2C1I)C(=O)O | C11H7IO3
reactant | dimethyl sulfate | 8.03 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | potassium carbonate | 8.80 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 150 mL | CC(=O)C | C3H6O
solvent | triethylamine | 15 mL | C(C)N(CC)CC | C6H15N
product | Methyl 3-methoxy-4-iodo-2-naphthoate | 5.53 g | COC=1C(=CC2=CC=CC=C2C1I)C(=O)OC | C13H11IO3
